data/mechanisms/records/IMS4-EQ4.15b.json
{"mechanism_id": "IMS4-EQ4.15b", "species": [{"species_id": "ethylbenzene_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][C:3]1[CH:4]=[CH:5][CH+:6][CH:7]=[CH:8]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "benzyl_cation_quinoid_form", "mapped_smiles": "[CH2:2]=[C:3]1[CH:4]=[CH:5][CH+:6][CH:7]=[CH:8]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethylbenzene_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["benzyl_cation_quinoid_form", "methyl_radical"]}], "steps": [{"step_id": "step_benzylic_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_4_15b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_benzylic_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 59, "equation": "4.15", "figure": null, "panel": "second (lower) scheme, ethylbenzene", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Book draws 3 arc(s); moves <1,2,3> are all drawn on the page and none is implicit: (1) a fishhook from the odd electron of the ionized phenyl pi system ('+.' printed over C6H5) into the CH2-C(ipso) bond, (2) a fishhook from the CH3-CH2 sigma bond into that same bond (the two barbs are printed side by side between CH2 and C6H5), and (3) a leftmost fishhook from the CH3-CH2 sigma bond onto the departing CH3. LOCALIZATION NOTE (convention C): the phenyl radical cation is delocalized; one Kekule/canonical form is chosen and used consistently - the odd electron on the ipso carbon C(3) (the atom the arrow starts from, alpha to the cleaving bond) and the positive charge at the para carbon C(6), with ring double bonds C4=C5 and C7=C8. The arrows then produce exactly the product the book draws, 'CH2=C6H5(+)', i.e. the quinoid methylenecyclohexadienyl cation with the exocyclic C(2)=C(3) double bond; the book prints the partner form '(+)CH2-C6H5' (benzyl cation, aromatic ring) in parentheses. An ortho-cation canonical form would serve equally; para was chosen. Both forms are the same C7H7+ ion (m/z 91), the base peak of ethylbenzene."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 106.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_91", "species_id": "benzyl_cation_quinoid_form", "step_id": "step_benzylic_alpha_cleavage", "observed_mz": 91.0542, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.95}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
